US09079889B2
Method 1 was followed using 3-amino-6-bromo-5-fluoropicolinic acid (1.0 equiv.) and 2-fluoro-5-propoxyphenylboronic acid (1.3 equiv.) and Pd(dppf)Cl2-DCM (0.05 equiv.) to give 3-amino-5-fluoro-6-(2-fluoro-5-propoxyphenyl)picolinic acid in 28% yield. LC/MS=309.1 (M+H), Rt=1.00 min.

reactant | 3-amino-6-bromo-5-fluoropicolinic acid | 1.0 equiv. | NC=1C(=NC(=C(C1)F)Br)C(=O)O | C6H4BrFN2O2
reactant | 2-fluoro-5-propoxyphenylboronic acid | 1.3 equiv. | FC1=C(C=C(C=C1)OCCC)B(O)O | C9H12BFO3
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-amino-5-fluoro-6-(2-fluoro-5-propoxyphenyl)picolinic acid | 28% yield | NC=1C(=NC(=C(C1)F)C1=C(C=CC(=C1)OCCC)F)C(=O)O | C15H14F2N2O3
